* C:\Users\Trevor\Documents\UBCO\Buck_boost\NonInvertingBuckBoost\LTSPICE\non-inverting-buck-boost-with-mosfets.asc
V1 N006 0 PULSE(0 5 0 0 0 {Ton} {T}) AC 5
L1 N001 N002 220µ IC=.02
C1 N003 0 {C} IC= 5
RLOAD N003 N005 {R}
D1 N002 N003 D
V2 N004 0 5
D2 0 N001 D
M1 N001 PWM-PMOS N004 N004 RRQ045P03
M2 N002 PWM-NMOS 0 0 IRLML2803
V3 N007 0 PULSE(5 0 0 0 0 {Ton} {T})
D3 N005 0 D
R1 PWM-PMOS N007 10
R2 PWM-NMOS N006 40
R3 N003 N008 5Meg
R4 N008 0 1Meg
.model D D
.lib C:\Users\Trevor\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Trevor\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 5m
*.AC 100k
.model SW1 SW (Ron=1u, Roff=1000Meg, Vt=2.5)
*.step param R 1k 5k 1k
*.step param C 100n 1u 100n
*.step param Ton 0.4u 1.4u .5u
.parameter R=510
.parameter C=220u
.parameter Ton = 2u
.parameter T = 3.33u
.backanno
.end
